US05872118
A mixture of 2,4-difluorocinnamic acid (30.0 g, 0.16 mol, Aldrich ) and platinum oxide hydrate (0.5 g, EM Scientific) in 95% ethanol (140 mL) was placed on a Parr hydrogenation apparatus. After the appropriate amount of hydrogen was taken up, the catalyst was filtered and the filtrate was concentrated in vacuo to give 29.7 g (98%) of 3-(2,4-difluorophenyl)propanoic acid as a white solid. Recrystallization of 1.0 g from acetonitrile: water mixtures gave 0.61 g of 3-(2,4-difluorophenyl)propanoic acid as a white solid: mp 104°-106° C.; NMR (DMSO-d6); d 12.2 (br, 1H), 6.98-7.40 (m, 3H), 2.81 (t, 2H), 2.51 (t, 2H).

reactant | 2,4-difluorocinnamic acid | 0.16 mol, 30.0 g | FC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6F2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 140 mL | C(C)O | C2H6O
catalyst | platinum oxide hydrate | 0.5 g | O.[Pt]=O
product | 3-(2,4-difluorophenyl)propanoic acid | 29.7 g, 98% | FC1=C(C=CC(=C1)F)CCC(=O)O | C9H8F2O2
